US04062864
3-[(4-Fluorobenzyl)methylamino]-8-fluoro-1,2,3,4-tetrahydrocarbazole
Following procedures similar to those described in Example 260 there was obtained from 64.6 g. of 4-methylaminocyclohexanol, on reaction with 87.2 g. of 4-fluorobenzoyl chloride, 100.6 g. of 4-(N-methyl-4-fluorobenzamido)-cyclohexanol, m.p. 120°-130° C., 25.1 g. of which were oxidized to give 22.3 g. of 4-(N-methyl-4 -fluorobenzamido)-cyclohexanone, m.p. 132°-136° C.

reactant | 4-methylaminocyclohexanol | CNC1CCC(CC1)O | C7H15NO
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 4-(N-methyl-4-fluorobenzamido)-cyclohexanol | CN(C(C1=CC=C(C=C1)F)=O)C1CCC(CC1)O | C14H18FNO2
reactant | 4-(N-methyl-4 -fluorobenzamido)-cyclohexanone | CN(C(C1=CC=C(C=C1)F)=O)C1CCC(CC1)=O | C14H16FNO2
product | 3-[(4-Fluorobenzyl)methylamino]-8-fluoro-1,2,3,4-tetrahydrocarbazole | FC1=CC=C(CCNC2CCC=3NC4=C(C=CC=C4C3C2)F)C=C1 | C20H20F2N2
